US04294838
In a manner analogous to that described in Example 1, Stage 3, from S-phenyl-S-(3-pyridyl)-sulphoximide and 2-diethylaminoethyl chloride, there is obtained, in a yield of 46% of theory, N-(2-diethylaminoethyl)-S-phenyl-S-(3-pyridyl)-sulphoximide. The corresponding dibenzoyltartrate, after recrystallisation from isoporopanol, melts at 130° C.

reactant | S-phenyl-S-(3-pyridyl)-sulphoximide | C1(=CC=CC=C1)S(=O)(=N)C=1C=NC=CC1 | C11H10N2OS
reactant | 2-diethylaminoethyl chloride | C(C)N(CCCl)CC | C6H14ClN
product | N-(2-diethylaminoethyl)-S-phenyl-S-(3-pyridyl)-sulphoximide | yield of 46% | C(C)N(CCN=S(=O)(C=1C=NC=CC1)C1=CC=CC=C1)CC | C17H23N3OS
